US06316482B1
To a solution of 4-[(indol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (160 mg) in N,N-dimethylformamide (3.0 ml) was added portionwise potassium tert-butoxide (37.3 mg) at 0° C. and the mixture was stirred at 0° C. for 1 hour. Methyl iodide (47.2 mg) was added to the mixture and the solution was stirred at 0° C. for 1 hour. The reaction was quenched with water and then the aqueous solution was extracted with ethyl acetate. Drying, filtering and removal of solvents afforded a crude product. The crude product was purified by column chromatography (eluent; 2% methanol in chloroform) to give 4-[(1-methylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (65 mg) as a white syrup.

reactant | 4-[(indol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 160 mg | N1C=CC2=C(C=CC=C12)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C36H43N5O5
reactant | potassium tert-butoxide | 37.3 mg | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 47.2 mg | CI | CH3I
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 4-[(1-methylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 65 mg | CN1C=CC2=C(C=CC=C12)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C37H45N5O5
